### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Calculus): Add theorem that abs on ℝ is not differentiable at 0

### PR DESCRIPTION
**Pull request by wupr**
Adds a theorem which states that the absolute value function on ℝ is not differentiable at zero.

---

This was suggested by @kmill as an exercise at the recent Hausdorff School on Formal Mathematics and Computer-Assisted Proving in Bonn.

The differentiability of the absolute value function everywhere else is already an immediate consequence of `DifferentiableWithinAt.norm`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 1]
```diff
@@ -245,6 +245,40 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
   ((contDiffAt_norm 𝕜 h0).differentiableAt le_rfl).comp x hf
 #align differentiable_at.norm DifferentiableAt.norm
 
+theorem not_differentiableAt_abs_zero : ¬ DifferentiableAt ℝ (fun x : ℝ ↦ abs x) 0 := by {
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:248]:
```suggestion
theorem not_differentiableAt_abs_zero : ¬ DifferentiableAt ℝ (fun x : ℝ ↦ abs x) 0 := by
```
We don't actually use the braces much these days (they show up in the error message though which is a bit annoying as it makes it seem like they are needed, they aren't!)

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 2]
```diff
@@ -245,6 +245,40 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
...
+    obtain ⟨b', hb'⟩ := Set.nonempty_Ioo.mpr hb0
+    by_cases hf1 : f 1 ≥ 0
+    · use a', habU (Set.Ioo_subset_Ioo_right (le_of_lt hb0) ha'),
+        ne_of_lt (Set.mem_Ioo.mp ha').right
+      rewrite [← mul_one a', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
+        ← mul_zero a', mul_le_mul_left_of_neg (Set.mem_Ioo.mp ha').right]
+      exact hf1
+    · use b', habU (Set.Ioo_subset_Ioo_left (le_of_lt ha0) hb'), ne_of_gt (Set.mem_Ioo.mp hb').left
+      push_neg at hf1
+      rewrite [← mul_one b', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:270]:
```suggestion
      rw [← mul_one b', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
```
Using rw is a lot more common than rewrite, so I'd recommend getting in to the habit of doing that also

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean (hunk 1 above)
Comment (wupr) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean:248]: OK. Sign, I wish everyone used braces.

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean (hunk 2 above)
Comment (wupr) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean:270]: Actually I recently got rid of the habit of using `rw` from Lean 3 era and switched to using `rewrite` because apparently they are marginally cheaper in Lean 4? Maybe no one else does it this way...

Comment (alexjbest) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean]: Well I think it was marginally cheaper in lean 3 also I believe. I think its fine to keep it as `rewrite` but just wanted to make sure you are aware

Comment (wupr) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean]: Of course. Thanks for the review!

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 3]
```diff
@@ -245,6 +245,38 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
   ((contDiffAt_norm 𝕜 h0).differentiableAt le_rfl).comp x hf
 #align differentiable_at.norm DifferentiableAt.norm
 
+theorem not_differentiableAt_abs_zero : ¬ DifferentiableAt ℝ (fun x : ℝ ↦ abs x) 0 := by
+  rw [DifferentiableAt]
+  push_neg
+  intro f
+  simp [HasFDerivAt, HasFDerivAtFilter, Asymptotics.isLittleO_iff]
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:252]: this looks like a non-terminal simp, please replace it with the output of `simp?`

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 4]
```diff
@@ -245,6 +245,38 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
...
+  use 2⁻¹
+  norm_num
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:254]: this is also a bit hard to maintain as an intermediate proof step. `norm_num` calls simp so goal after this step can change if someone adds some simp lemma in the future. Can you move this step to the end of the proof somehow? Or use suffices to make it clear what the goal should be after

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 5]
```diff
@@ -245,6 +245,38 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
...
+      push_neg at hf1
+      rw [← mul_one b', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
+        ← mul_zero b', mul_le_mul_left (Set.mem_Ioo.mp hb').left]
+      exact le_of_lt hf1
+  use ε, hε.left
+  rw [lt_abs]
+  left
+  rw [lt_sub_comm, ← one_mul |ε|, ← mul_assoc, ← sub_mul]
+  norm_num
+  simp [lt_of_le_of_lt hε.right.right, hε.right.left]
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:278]:
```suggestion
  norm_num [lt_of_le_of_lt hε.right.right, hε.right.left]
```

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean]: Floris and I decided to use braces like this for the school to keep parse errors better contained (otherwise the errors can get more confusing than they already are when you're first learning!)

Comment (alexjbest) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean]: I understand the rationale! (or using `done` at the end of proofs, its just odd and potentially annoying for linters and stuff to have a mix of styles in mathlib)

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean (hunk 4 above)
Comment (wupr) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean]: This `norm_num` is meant to solve the left half of the top-level "and" in the goal. I have replaced it with `use by norm_num` to make this intention clear and the code more maintainable.

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 6]
```diff
@@ -245,6 +245,38 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
...
 #align differentiable_at.norm DifferentiableAt.norm
 
+theorem not_differentiableAt_abs_zero : ¬ DifferentiableAt ℝ (fun x : ℝ ↦ abs x) 0 := by
+  rw [DifferentiableAt]
+  push_neg
+  intro f
+  simp only [HasFDerivAt, HasFDerivAtFilter, abs_zero, sub_zero,
+    Asymptotics.isLittleO_iff, norm_eq_abs, not_forall, not_eventually, not_le, exists_prop]
+  use 2⁻¹
+  use by norm_num
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:255]:
```suggestion
  use 2⁻¹, by norm_num
```
you can combine use steps like this

Comment (alexjbest) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean:255]: ah I see that you already know this ;) as you use it below (no pun intended) still i think it makes the proof cleaner to put them together

Comment (wupr) [reply Mathlib/Analysis/InnerProductSpace/Calculus.lean:255]: Haha. Yes, I should remember to combine the `use`s.

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 7]
```diff
@@ -245,6 +245,37 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
...
+    · use b', habU (Set.Ioo_subset_Ioo_left (le_of_lt ha0) hb'), ne_of_gt (Set.mem_Ioo.mp hb').left
+      push_neg at hf1
+      rw [← mul_one b', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
+        ← mul_zero b', mul_le_mul_left (Set.mem_Ioo.mp hb').left]
+      exact le_of_lt hf1
+  use ε, hε.left
+  rw [lt_abs]
+  left
+  rw [lt_sub_comm, ← one_mul |ε|, ← mul_assoc, ← sub_mul]
+  norm_num [lt_of_le_of_lt hε.right.right, hε.right.left]
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:277]:
```suggestion
  -- tactic bug means calc is needed here
  calc 2⁻¹ * |ε| < |ε| - f ε := by cancel_denoms; linarith [abs_pos.mpr hε.right.left]
```

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 8]
```diff
@@ -245,6 +245,37 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
   ((contDiffAt_norm 𝕜 h0).differentiableAt le_rfl).comp x hf
 #align differentiable_at.norm DifferentiableAt.norm
 
+theorem not_differentiableAt_abs_zero : ¬ DifferentiableAt ℝ (fun x : ℝ ↦ abs x) 0 := by
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:248]:
```suggestion
theorem not_differentiableAt_abs_zero : ¬ DifferentiableAt ℝ (abs : ℝ → ℝ) 0 := by
```
I think its probably better to prove this about the actual function, rather than an anonymous function that does the same thing (these are basically the same but subtly different in lean)

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 9]
```diff
@@ -245,6 +245,37 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
...
+    obtain ⟨a, b, hab0, habU⟩ := mem_nhds_iff_exists_Ioo_subset.mp hU
+    obtain ⟨ha0, hb0⟩ := Set.mem_Ioo.mp hab0
+    obtain ⟨a', ha'⟩ := Set.nonempty_Ioo.mpr ha0
+    obtain ⟨b', hb'⟩ := Set.nonempty_Ioo.mpr hb0
+    by_cases hf1 : f 1 ≥ 0
+    · use a', habU (Set.Ioo_subset_Ioo_right (le_of_lt hb0) ha'),
+        ne_of_lt (Set.mem_Ioo.mp ha').right
+      rw [← mul_one a', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
+        ← mul_zero a', mul_le_mul_left_of_neg (Set.mem_Ioo.mp ha').right]
+      exact hf1
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:267]:
```suggestion
      rwa [← mul_one a', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
        ← mul_zero a', mul_le_mul_left_of_neg (Set.mem_Ioo.mp ha').right]
```
you can use `rwa` (rewrite-then-assumption) here

File: Mathlib/Analysis/InnerProductSpace/Calculus.lean [hunk 10]
```diff
@@ -245,6 +245,36 @@ theorem DifferentiableAt.norm (hf : DifferentiableAt ℝ f x) (h0 : f x ≠ 0) :
...
+    by_cases hf1 : f 1 ≥ 0
+    · use a', habU (Set.Ioo_subset_Ioo_right (le_of_lt hb0) ha'),
+        ne_of_lt (Set.mem_Ioo.mp ha').right
+      rwa [← mul_one a', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
+        ← mul_zero a', mul_le_mul_left_of_neg (Set.mem_Ioo.mp ha').right]
+    · use b', habU (Set.Ioo_subset_Ioo_left (le_of_lt ha0) hb'), ne_of_gt (Set.mem_Ioo.mp hb').left
+      push_neg at hf1
+      rw [← mul_one b', ← smul_eq_mul, ContinuousLinearMap.map_smul, @smul_eq_mul _ _ _ (f 1),
+        ← mul_zero b', mul_le_mul_left (Set.mem_Ioo.mp hb').left]
+      exact le_of_lt hf1
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/Calculus.lean:271]: here is another way to do the middle bit of your proof, I think it is a bit simpler. instead of considering all neighborhoods we just work in a simpler subset, the basis of balls around zero, this is nice as we can be sure that we have some very explicit elements in it directly rather than needing to argue that they exist abstractly
```suggestion
  rw [Filter.HasBasis.frequently_iff Metric.nhds_basis_ball]
  intro r hr
  obtain ⟨ε, hε⟩ : ∃ ε ∈ Metric.ball 0 r, ε ≠ 0 ∧ f ε ≤ 0 := by
    by_cases f (r / 2) ≤ 0
    · use (r / 2)
      simp [h, abs_of_nonneg hr.le, hr, hr.ne']
    · use -(r / 2)
      simp only [Metric.mem_ball, dist_zero_right, norm_neg, norm_div, norm_eq_abs,
        abs_of_nonneg hr.le, norm_ofNat, half_lt_self_iff, hr, ne_eq, neg_eq_zero,
        div_eq_zero_iff, hr.ne', OfNat.ofNat_ne_zero, or_self,
        not_false_eq_true, map_neg, Left.neg_nonpos_iff, true_and]
      simp only [not_le] at h
      exact h.le
```

**Comment by alexjbest** [comment]
Ok I think some filter expert could probably shrink this more (maybe with some more API etc) but to me this seems good enough for now, more golfing can happen in a follow up if anyone is motivated to do so.

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by wupr** [comment]
Argh I forgot to include @alexjbest as a co-author. I thought the bot would do it automatically since Alex co-authored many of the commits. Sorry 😢

**Comment by alexjbest** [comment]
It's ok! I'm just happy to be of assistance 😊
